US04243609
A mixture of 5.0 g. of 3-fluoro-4-nitrocinnamic acid and 100 mg. of 10% palladium-on-carbon in 200 ml. of ethanol containing 5 drops of 5.5 N ethanolic hydrogen chloride is treated with hydrogen in a Parr apparatus at room temperature for 3 hours. The mixture is then filtered through Celite and the filtrate is concentrated, affording 3-fluoro-4-aminohydrocinnamic acid.

reactant | 3-fluoro-4-nitrocinnamic acid | FC=1C=C(C=CC(=O)O)C=CC1[N+](=O)[O-] | C9H6FNO4
reactant | hydrogen chloride | 5.5 N | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | ethanol | 5 drops | C(C)O | C2H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 3-fluoro-4-aminohydrocinnamic acid | FC=1C=C(CCC(=O)O)C=CC1N | C9H10FNO2
